US07271263B2
To 80 ml of toluene were added 8.0 g (40 m moles) of 1-(4,6-dimethoxypyrimidine-2-yl)-2-propanone and 7.7 g (44 m moles) of 4-metoxyphenylhydrazine hydrochloride. Thereto was added 6.0 g (44 m moles) of zinc chloride. Refluxing was made for 2 hours with heating. The reaction mixture was allowed to cool. Thereto were added ethyl acetate and water to dissolve the whole reaction mixture. The oily layer was washed with water, separated and dried over Glauber's salt. The resulting organic layer was concentrated under reduced pressure using an rotary evaporator to obtain, as an orange solid, 8.0 g (26.7 m moles) of 3-(4,6-dimethoxypyrimidine-2-yl)-5-methoxy-2-methylindole. Yield: 67% Recrystallization from toluene was made. Melting point: 182 to 184° C.

reactant | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
reactant | 1-(4,6-dimethoxypyrimidine-2-yl)-2-propanone | 8.0 g | COC1=NC(=NC(=C1)OC)CC(C)=O | C9H12N2O3
reactant | 4-metoxyphenylhydrazine hydrochloride | 7.7 g | Cl.COC1=CC=C(C=C1)NN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc chloride | 6.0 g | [Cl-].[Zn+2].[Cl-]
solvent | water | O | H2O
product | 3-(4,6-dimethoxypyrimidine-2-yl)-5-methoxy-2-methylindole | 8.0 g, Yield: 67% | COC1=NC(=NC(=C1)OC)C1=C(NC2=CC=C(C=C12)OC)C | C16H17N3O3
